US09108921B2
Step B: tert-butyl-4-(3-((tert-butyldimethylsilyl)oxy)prop-1-yn-1-yl)-4-((methoxycarbonyl)oxy)piperidine-1-carboxylate (37D)
To a solution of tert-butyl 4-(3-((tert-butyldimethylsilyl)oxy)prop-1-yn-1-yl)-4-hydroxypiperidine-1-carboxylate (500 mg, 1.353 mmol) in 30 mL of anhydrous THF was added dropwise n-BuLi (0.65 mL, 1.623 mmol) at −78° C. under N2. After stirring for 1 h at −78° C., methyl carbonochloridate (176.2 mg, 1.623 mmol) in THF (1 mL) was added dropwise to the above solution at −78° C. under N2. The resulting mixture was stirred at −78° C. under N2 for 2 h, then allowed to warm to r.t. and stirred for another 8 h. The reaction mixture was cooled to −78° C. and quenched by sat. NH4Cl aq., and the resulting mixture was extracted with EtOAc (50 mL, 30 mL). The combined organic phase was washed with brine, dried over anhy. Na2SO4 and concentrated in vacuo. Column chromatography (15% PE/EtOAc) afforded 453 mg of title compound. 1H NMR (CHLOROFORM-d) δ: 4.40 (s, 2H), 4.26-4.15 (m, 2H), 3.80-3.67 (m, 2H), 3.41-3.28 (m, 2H), 2.27-2.14 (m, 2H), 2.00 (ddd, J=13.1, 9.2, 3.9 Hz, 2H), 1.48 (s, 9H), 1.33 (t, J=7.1 Hz, 4H), 0.92 (s, 9H), 0.14 (s, 6H).

reactant | tert-butyl 4-(3-((tert-butyldimethylsilyl)oxy)prop-1-yn-1-yl)-4-hydroxypiperidine-1-carboxylate | 1.353 mmol, 500 mg | [Si](C)(C)(C(C)(C)C)OCC#CC1(CCN(CC1)C(=O)OC(C)(C)C)O | C19H35NO4Si
reactant | n-BuLi | 1.623 mmol, 0.65 mL | [Li]CCCC
reactant | methyl carbonochloridate | 1.623 mmol, 176.2 mg | C(OC)(=O)Cl | C2H3ClO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | tert-butyl-4-(3-((tert-butyldimethylsilyl)oxy)prop-1-yn-1-yl)-4-((methoxycarbonyl)oxy)piperidine-1-carboxylate | 453 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(OC(=O)OC)C#CCO[Si](C)(C)C(C)(C)C | C21H37NO6Si
